US04152433
To dimethylformamide (0.54 g.) was added dropwise phosphorus oxychloride (1.13 g.) under stirring and ice-cooling, and the mixture was stirred for 30 minutes at 40° C., and then dried ethyl acetate (13 ml.) was added thereto. To the mixture was gradually added 2-methoxyimino-2-(2-trifluoroacetylaminothiazol-4-yl)acetic acid (syn isomer), which can be represented as 2-methoxyimino-2-(2-trifluoroacetylimino-2,3-dihydrothiazol-4-yl)acetic acid (syn isomer), (2.0 g.) under cooling at 3° to 5° C., and the mixture was stirred for 40 minutes at the same temperature. Thus obtained solution was added to a solution, which was prepared by stirring a mixture of 2-methyl-7-amino-3-cephem-4-carboxylic acid (1.44 g.) and trimethylsilylacetamide (9.78 g.) in dried ethyl acetate (30 ml.) for 5 to 10 minutes at 35° to 40° C., under cooling at -25° to -20° C. with stirring. The mixture was stirred for 1 hour at the same temperature, and cold water was added thereto under ice-cooling, and then the mixture was stirred for about 5 minutes at the same temperature. The ethyl acetate layer was separated from the reaction mixture, and the remaining aqueous layer was extracted with ethyl acetate (20 ml.×2). The ethyl acetate layers were combined together, washed with water and then water (50 ml.) was added thereto. The mixture was adjusted to pH 7.5 with a saturated aqueous solution of sodium bicarbonate, under ice-cooling and stirring, and the aqueous layer was separated therefrom. After washing the aqueous layer with ethyl acetate, ethyl acetate (70 ml.) was added thereto. The mixture was adjusted to pH 2.5 with 10% hydrochloric acid under ice-cooling and stirring. The ethyl acetate layer was separated from the mixture, and the remaining aqueous layer was extracted with ethyl acetate (30 ml.). The ethyl acetate layers were combined together, washed with an aqueous solution of sodium chloride, dried and then concentrated till the total volume became about 10 ml. To the residue was added diethyl ether (20 ml.) and the mixture was stirred for about 1 hour. The precipitates were collected by filtration, washed with diethyl ether and then dried to give 2-methyl-7-[2-methoxyimino-2-(2-trifluoroacetylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), which can be represented as 2-methyl-7-[2-methoxyimino-2-(2-trifluoroacetylimino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), (2.2 g.), mp 197° to 198° C. (dec.). The remaining filtrate was concentrated, and the residue was washed with diethyl ether and then dried to give the same object compound (0.3 g.).

reactant | phosphorus oxychloride | 1.13 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-methoxyimino-2-(2-trifluoroacetylaminothiazol-4-yl)acetic acid | CON=C(C(=O)O)C=1N=C(SC1)NC(C(F)(F)F)=O | C8H6F3N3O4S
reactant | 2-methoxyimino-2-(2-trifluoroacetylimino-2,3-dihydrothiazol-4-yl)acetic acid | CON=C(C(=O)O)C=1NC(SC1)=NC(C(F)(F)F)=O | C8H6F3N3O4S
reactant | 2-methyl-7-amino-3-cephem-4-carboxylic acid | 1.44 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2N)=O | C8H10N2O3S
reactant | trimethylsilylacetamide | 9.78 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 13 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | dimethylformamide | 0.54 g | CN(C=O)C | C3H7NO
product | 2-methyl-7-[2-methoxyimino-2-(2-trifluoroacetylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2N=C(SC2)NC(C(F)(F)F)=O)=NOC)=O)=O | C16H14F3N5O6S2
